US07741326B2
4-(3-Benzyl-2-cyano-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.302 gm, 0.7 mmol), sodium perborate tetrahydrate (0.43 gm, 2.8 mmol), ethanol (8 ml) and water (8 ml) were combined in a vial and heated in a microwave reactor to 130° C. for 10 minutes. The reaction mixture was cooled to room temperature, diluted with brine and water and extracted three times with ethyl acetate. The solution was dried over magnesium sulfate and purified by column chromatography (methanol/dichloromethane gradient) to give 4-(3-benzyl-2-carbamoyl-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.25 gm, 80% yield).

reactant | 4-(3-Benzyl-2-cyano-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.7 mmol, 0.302 gm | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2C(=C(OC21)C#N)CC2=CC=CC=C2)C | C26H29N3O3
reactant | sodium perborate tetrahydrate | 2.8 mmol, 0.43 gm | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | ethanol | 8 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
solvent | water | 8 ml | O | H2O
product | 4-(3-benzyl-2-carbamoyl-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.25 gm, 80% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2C(=C(OC21)C(N)=O)CC2=CC=CC=C2)C | C26H31N3O4
